US06384041B1
I. Preparation of 1,7-dihydro-2-methyl-6-ethyl-4H-pyrrolo[2,3-d]pyrimidin-4-one
The 2-methyl-6-amino-5-(2-ethyl-1,3-dioxolan-2-ylmethyl)-4-pyrimidinol (5.50 g, 22.9 mmol) was combined with 172 mL of 0.2 M HCl and stirred at ambient temperature for 18 hours. The solids were collected by filtration, washed with 40 mL of water and dried in vacuo (40° C., 10 torr) to 3.70 g (91%) of 1,7-dihydro-2-methyl-6-ethyl-4H-pyrrolo[2,3-d]pyrimidin-4-one as a tan solid. nmr (500 MHz, dmso-d6) δ1.18 (t, J=7.5 Hz, 3H), 2.26 (s, 3H), 2.57 (q, J=7.5 Hz, 2H), 6.04 (s, 1H), 11.42 (s, 1H), 11.57 (s, 1H)

reactant | 2-methyl-6-amino-5-(2-ethyl-1,3-dioxolan-2-ylmethyl)-4-pyrimidinol | 22.9 mmol, 5.50 g | CC1=NC(=C(C(=N1)O)CC1(OCCO1)CC)N | C11H17N3O3
reactant | HCl | 0.2 M, 172 mL | Cl | ClH
product | 1,7-dihydro-2-methyl-6-ethyl-4H-pyrrolo[2,3-d]pyrimidin-4-one | CC1=NC(C2=C(N1)NC(=C2)CC)=O | C9H11N3O
